US05578627
A solution of 1.00 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole in 5 ml of methylene chloride is added to a solution of 0.31 g of N-(chlorocarbonyl) isocyanate in 10 ml of methylene chloride at -50° to -40° C. To this solution is added 10 ml of methanol at -40° C., and the temperature is elevated to 0° C., at which they are subjected to reaction for 30 minutes. The solvent is removed from the reaction mixture by distillation under reduced pressure, and to the residue obtained is added 12.8 ml of a 2-propanol solution (7.5N) of hydrogen chloride, after which they are subjected to reaction at 20°-25° C. for 30 minutes. The solvent is removed from the reaction mixture by distillation under reduced pressure. To the residue obtained are added ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which 9.6 ml of a 2-propanol solution (7.5N) of hydrogen chloride is added. The crystals obtained are collected by filtration, to obtain 0.42 g of colorless, crystalline 3-(2-amino-3-methoxycarbonylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 184°-185° C.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 1.00 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
reactant | N-(chlorocarbonyl) isocyanate | 0.31 g | C(=NC(=O)Cl)=O | C2ClNO2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 7.5N, 12.8 ml | CC(C)O | C3H8O
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2-amino-3-methoxycarbonylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NC(=O)OC | InChI=1S/C13H14ClN3O6.ClH/c1-20-12(18)16-13(19)22-6-8(15)5-21-11-9-4-7(14)2-3-10(9)23-17-11;/h2-4,8H,5-6,15H2,1H3,(H,16,18,19);1H
